US07981900B2
N-[2-Methoxy-4-(6-{[(1S)-1-pyridin-3-ylbutyl]amino}pyrazin-2-yl)phenyl]-N′-ethylurea
Under a nitrogen atmosphere a mixture of 6-chloro-N-[(1S)-1-pyridin-3-ylbutyl]pyrazin-2-amine (53 g, 0.2 mmol), 4-{[(ethylamino)carbonyl]amino}-3-methoxyphenylboronic acid pinacol diester (69 mg, 0.23 mmol), tetrakis(triphenylphosphine)palladium(0) (23 mg, 0.02 mmol) in toluene-n-propanol (2.6 mL, 3:1) was treated with 2M aqueous sodium carbonate solution (0.15 mL, 0.3 mmol). The resulting mixture was stirred vigorously whilst being heated at 100° C. for 22 hours. Once cool ethyl acetate (10 mL) was added and the mixture washed with H2O (6×10 mL) and brine (10 mL) and then dried (Na2SO4). Removal of solvent in vacuo then yielded crude product, which was purified by column chromatography using dichloromethane-methanol-aqueous ammonia (93:7:1) as eluent to furnish the product (60 mg).

reactant | 6-chloro-N-[(1S)-1-pyridin-3-ylbutyl]pyrazin-2-amine | 0.2 mmol, 53 g | ClC1=CN=CC(=N1)N[C@@H](CCC)C=1C=NC=CC1 | C13H15ClN4
reactant | sodium carbonate | 0.3 mmol, 2M, 0.15 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene-n-propanol | 2.6 mL | C(CC)O.C1(=CC=CC=C1)C
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[2-Methoxy-4-(6-{[(1S)-1-pyridin-3-ylbutyl]amino}pyrazin-2-yl)phenyl]-N′-ethylurea | 60 mg | COC1=C(C=CC(=C1)C1=NC(=CN=C1)N[C@@H](CCC)C=1C=NC=CC1)NC(=O)NCC | C23H28N6O2
